US07186716B2
To a solution of 1H-pyrrole-2-carboxylic acid ((S)-1-phenyl-ethyl)-amide (800 mg, 3.7 mmol) and 2-chloronicotinoyl chloride (95 mg, 5.4 mmol) in dry benzene (10 mL) at 0° C. was added dropwise a solution of tin (IV) chloride (1.75 g) in benzene (5 mL). The mixture was allowed to warm up slowly to room temperature and stirred for overnight. The reaction was concentrated, diluted with ethyl acetate, washed with water, 1N NaOH, brine, dried and concentrated. The residue was purified on a silica gel column to give 458 mg (35%) of 5-(2-chloro-pyridine-3-carbonyl)-1H-pyrrole-2-carboxylic acid ((S)-1-phenyl-ethyl)-amide.

reactant | 1H-pyrrole-2-carboxylic acid ((S)-1-phenyl-ethyl)-amide | 3.7 mmol, 800 mg | C1(=CC=CC=C1)[C@H](C)NC(=O)C=1NC=CC1 | C13H14N2O
reactant | 2-chloronicotinoyl chloride | 5.4 mmol, 95 mg | ClC1=C(C(=O)Cl)C=CC=N1 | C6H3Cl2NO
reactant | tin (IV) chloride | 1.75 g | [Sn](Cl)(Cl)(Cl)Cl
solvent | benzene | 10 mL | C1=CC=CC=C1 | C6H6
solvent | benzene | 5 mL | C1=CC=CC=C1 | C6H6
product | 5-(2-chloro-pyridine-3-carbonyl)-1H-pyrrole-2-carboxylic acid ((S)-1-phenyl-ethyl)-amide | 458 mg, 35% | C1(=CC=CC=C1)[C@H](C)NC(=O)C=1NC(=CC1)C(=O)C=1C(=NC=CC1)Cl | C19H16ClN3O2
